US04514416
Synthesis of 4-amidino-2-methoxycarbonylphenyl trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylate
Into 40 ml of anhydrous pyridine, was dissolved 4.3 g of trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylic acid. To the solution, while being cooled in ice, was added 3.7 g of DCC. To the mixture which had been stirred for 30 minutes, was added 4.1 g of methyl 5-amidinosalicylate methanesulfonate. The mixture was stirred overnight at room temperature. The precipitate which was formed was separated by filtration and washed with pyridine. Ethyl ether was added to the filtrate and the precipitated white crystals were washed with ethyl ether and dissolved in DMF. The colorless crystals separated from the DMF solution by the addition of ethyl ether were recrystallized from ethanol to obtain 4.3 g of a colorless powder of 4-amidino-2-methoxycarbonylphenyl trans-4-benzyloxycarbonylamino-methylcyclohexanecarboxylate methanesulfonate.

reactant | trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylic acid | 4.3 g | C(C1=CC=CC=C1)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)O | C16H21NO4
reactant | DCC | 3.7 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | methyl 5-amidinosalicylate methanesulfonate | 4.1 g | CS(=O)(=O)O.C(N)(=N)C1=CC=C(C(C(=O)OC)=C1)O
solvent | pyridine | 40 ml | N1=CC=CC=C1 | C5H5N
product | 4-amidino-2-methoxycarbonylphenyl trans-4-benzyloxycarbonylaminomethylcyclohexanecarboxylate | 4.3 g | C(C1=CC=CC=C1)OC(=O)NC[C@@H]1CC[C@H](CC1)C(=O)OC1=C(C=C(C=C1)C(N)=N)C(=O)OC | C25H29N3O6
